US07741327B2
To a stirred solution of (S)-3-cyclohexyl-2-(2-oxo-4-m-tolyloxy-2,5-dihydro-pyrrol-1-yl)-propionic acid methyl ester (0.570 g, 0.002 mol) in tetrahydrofuran-water (3:1, 10 mL) was added lithium hydroxide (0.201 g, 0.008 mol). The reaction mixture was stirred at 23° C. for 2 h. After this time, the mixture was concentrated and the reaction mixture was diluted with water. The reaction mixture was acidified with 2N hydrochloric acid, during which time precipitation occurred. The precipitate was removed by filtration, washed with cold water and dried in vacuo to obtain (S)-3-cyclohexyl-2-(2-oxo-4-m-tolyloxy-2,5-dihydro-pyrrol-1-yl)-propionic acid (430 mg, 79%) as a light brown solid.

reactant | (S)-3-cyclohexyl-2-(2-oxo-4-m-tolyloxy-2,5-dihydro-pyrrol-1-yl)-propionic acid methyl ester | 0.002 mol, 0.570 g | COC([C@H](CC1CCCCC1)N1C(C=C(C1)OC=1C=C(C=CC1)C)=O)=O | C21H27NO4
reactant | lithium hydroxide | 0.008 mol, 0.201 g | [OH-].[Li+]
solvent | tetrahydrofuran water | 10 mL | O1CCCC1.O
product | (S)-3-cyclohexyl-2-(2-oxo-4-m-tolyloxy-2,5-dihydro-pyrrol-1-yl)-propionic acid | 430 mg, 79% | C1(CCCCC1)C[C@@H](C(=O)O)N1C(C=C(C1)OC=1C=C(C=CC1)C)=O | C20H25NO4
